US07456164B2
Intermediate 73: 4-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]carbonyl}morpholine
The title compound (3.1 g, 87%) was prepared using 4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-carboxylic acid, morpholine and O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) similarly to the procedure used for example 166. HRMS ESI+ m/z 306.1696 [MH]+.

reactant | 4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-carboxylic acid | COC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C13H16O4
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
product | 4-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]carbonyl}morpholine | 3.1 g, 87% | COC1=CC=C(C=C1)C1(CCOCC1)C(=O)N1CCOCC1 | C17H23NO4
